US05688487
D. Preparation of Methyl 5-chloro-4-nitroso-5-methylhexanoate
A mixture of isoamyl nitrite (12 mL) and methyl 5-methyl-4-hexenoate (4.90 g, 35.00 mmol) was cooled to -15° C. To this stirred solution, concentrated HCl (12.5 mL) was added dropwise from an addition flask maintaining the temperature of the reaction mixture below -5° C. After the addition, the reaction mixture was stirred at 0° C. for 30 minutes, filtered and the precipitate washed with ethanol (-10° C.). The light blue colored solid thus obtained was dispersed in petroleum ether (50 mL), cooled to ~-50° C. and filtered to provide the title product as a colorless solid. Yield: 3.0 g (41.3%); m.p. 90°-91° C. 1H NMR (CDCl3) δ 1.68 & 1.71 [2s, 6H, C(CH3)2 ], 2.35 [m, 4H, (CH2)2 ], 3.73 (s, 3H, COOCH3) and 5.11 (t, 1H, CH). MS m/e 208 (M+H)+.

reactant | isoamyl nitrite | 12 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | methyl 5-methyl-4-hexenoate | 35.00 mmol, 4.90 g | CC(=CCCC(=O)OC)C | C8H14O2
reactant | HCl | 12.5 mL | Cl | ClH
product | Methyl 5-chloro-4-nitroso-5-methylhexanoate | ClC(C(CCC(=O)OC)N=O)(C)C | C8H14ClNO3
